US07582633B2
Step 2: 2-(4-Hydroxypiperidin-1-yl)pyrimidine-5-carbonitrile
A mixture of 1-(5-bromopyrimidin-2-yl)piperidin-4-ol (5 g, 19.37 mmol) and copper(I) cyanide (6.94 g, 77 mmol) in DMF (48.4 mL) was heated at 140° C. for 18 h. The mixture was diluted with water (100 mL) and EtOAc (50 mL) and filtered through celite. The filtrate was extracted with EtOAc (3×20 mL). The combined organic fractions were washed with 1N HCl (20 mL) then dried over Na2SO4. The solvent was evaporated and the product was recrystallized from CH2Cl2/hexanes, filtered and washed with hexanes to afford the title compound.

reactant | 1-(5-bromopyrimidin-2-yl)piperidin-4-ol | 19.37 mmol, 5 g | BrC=1C=NC(=NC1)N1CCC(CC1)O | C9H12BrN3O
reactant | copper(I) cyanide | 77 mmol, 6.94 g | [Cu]C#N
solvent | DMF | 48.4 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-(4-Hydroxypiperidin-1-yl)pyrimidine-5-carbonitrile | OC1CCN(CC1)C1=NC=C(C=N1)C#N | C10H12N4O
